data/rdb19/train.csv
rxn,smiles,ea
2751,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:24]1([C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([C:23]([H:36])([H:37])[H:38])[H:35])[C:25]([H:39])[C:26]([H:40])=[C:27]([H:41])[C:28]([H:42])=[C:29]1[H:43],40.83719207317336
5399,[C:17]([C:18]([C:19]([H:20])[H:21])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([C:3]1=[C:4]([H:12])[C:5]([H:13])[C:6]([H:14])([C:19]([C:18]([C:17]([H:25])([H:26])[H:27])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:20])[H:21])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],19.57543056004215
2790,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:25]1([H:33])[C:24]([H:32])[C:23]([H:31])=[C:22]([C:21](=[C:20]([H:28])[H:29])[H:30])[C:27]([H:35])=[C:26]1[H:34])([H:13])[H:14])([H:10])([H:11])[H:12],20.23197924223496
665,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:19][H:20]>>[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[O:19][H:20],42.84114061016589
4566,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[C:19]([O:18][C:17]([H:21])([H:22])[H:23])([C:20]([H:25])[H:26])[H:24])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],21.402985690278
3990,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6]=[O:7])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25](=[C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])[H:35])([H:31])([H:32])[H:33].[O:8]([C:9]([H:21])([H:22])[H:23])[H:34],71.85115973016946
4701,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:17])([H:18])[H:19])([O:9][C:10]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([H:2])([H:3])([H:4])[C:7]([C:6]([C:5]([H:11])([H:12])[H:13])([H:14])[H:15])([C:8]([H:17])([H:18])[H:19])[H:16].[O:9][C:10]([H:20])([H:21])[H:22],59.36868287136895
2349,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:5])([H:6])[H:7].[C:8]([C:9]([H:17])[H:18])([H:14])([H:15])[H:16],71.0046865917393
85,[C:12]([O:13][C:14](=[O:15])[C:16](=[C:17]([H:22])[H:23])[C:18]([H:24])([H:25])[H:26])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([O:13][C:14](=[O:15])[C:16]=[C:17]([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:18]([H:24])([H:25])[H:26])([H:6])([H:7])[H:8],67.00310592661845
2339,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18].[H:5][C:8]([H:14])([H:15])[H:16],82.7912964655552
4417,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]([O:5][C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])[O:6][H:12])([H:7])([H:8])[H:9],32.277344458620064
